US09145354B2
Step 4 A mixture of (6-chloro-3-dibromomethyl-2-fluoro-phenyl)-phenyl-methanone (582 mg, 1.38 mmol), silver nitrate (469 mg, 2.76 mmol), isopropanol (10 ml) and water (2 ml) was stirred at room temperature overnight. Dichloromethane was added and the mixture was filtered under suction washing with isopropanol. The organic liquors were concentrated then purified by silica chromatography eluting with 0-20% ethyl acetate/petroleum ether furnishing 3-benzoyl-4-chloro-2-fluoro-benzaldehyde (222 mg oil, 90% clean). Analytical data as above

reactant | (6-chloro-3-dibromomethyl-2-fluoro-phenyl)-phenyl-methanone | 1.38 mmol, 582 mg | ClC1=CC=C(C(=C1C(=O)C1=CC=CC=C1)F)C(Br)Br | C14H8Br2ClFO
reactant | isopropanol | 10 ml | C(C)(C)O | C3H8O
reactant | water | 2 ml | O | H2O
catalyst | silver nitrate | 2.76 mmol, 469 mg | [N+](=O)([O-])[O-].[Ag+]
solvent | Dichloromethane | ClCCl | CH2Cl2
product | 3-benzoyl-4-chloro-2-fluoro-benzaldehyde | 222 mg, 90% | C(C1=CC=CC=C1)(=O)C=1C(=C(C=O)C=CC1Cl)F | C14H8ClFO2
